US05270309
To 2-diethylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (0.55 g) at room temperature was added hydrogen bromide in acetic acid (15 ml of a 48% solution) and the solution was stirred in a sealed flask for 48 hours. The reaction mixture was poured into dry ether (50 ml) to give a pale yellow solid which was filtered off and recrystallised from ethanol to yield 2-diethylaminoethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide (0.36 g), m.p. 220° C. (dec). δ (360 MHz, DMSO-d6), 1.25 (6H, t, CH3), 3.28 (4H, m, NCH2CH3), 3.57 (2H, m, OCH2CH2N), 4.66 (2H, t, OCH2CH2), 6.86 (1H, s, 3-H), 7.47 (1H, d, 6-H), 8.05 (1H, d, 8-H), 9.37 (1H, bs, NH) and 12.1 (1H, vbs, NH). (Found: C, 40.20; H, 4.15; N, 5.86%. C16H18Cl2N2O3. 1.5HBr requires C, 40.15; H, 4.10; N, 5.85%).

reactant | 2-diethylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 0.55 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCCN(CC)CC | C23H24Cl2N2O3
reactant | hydrogen bromide | Br | BrH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-diethylaminoethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide | 0.36 g | Br.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCN(CC)CC)=O | InChI=1S/C16H18Cl2N2O3.BrH/c1-3-20(4-2)5-6-23-16(22)13-9-14(21)15-11(18)7-10(17)8-12(15)19-13;/h7-9H,3-6H2,1-2H3,(H,19,21);1H
